US09107916B2
D. 2-[5-[(2-ethyl-4-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (2-ethyl-4-methylphenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 1.20 (3H, t, J=7.6 Hz), 2.35 (3H, s), 2.68 (2H, q, J=7.6 Hz), 5.21 (2H, s), 5.79 (1H, d, J=1.6 Hz), 7.03 (1H, d, J=7.6 Hz), 7.07 (1H, s), 7.27 (1H, d, J=8.4 Hz), 7.36 (1H, dd, J=1.2 Hz, 4.8 Hz), 7.58 (1H, d, J=1.6 Hz), 7.96-7.97 (1H, s), 8.66 (1H, dd, J=0.8 Hz, 5.2 Hz). [M+H] Calc'd for C19H18N4O, 319. Found, 319.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (2-ethyl-4-methylphenyl)methanol | C(C)C1=C(C=CC(=C1)C)CO | C10H14O
product | 2-[5-[(2-ethyl-4-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | C(C)C1=C(C=CC(=C1)C)COC1=CC=NN1C1=NC=CC(=C1)C#N | C19H18N4O
